US04791055
B. 8-[2-(2,4-dinitrophenyl)aminoethyl]aminoadenosine-5'-monophosphate
8-(2-aminoethyl)aminoadenosine-5'-monophosphate from Part A of this Example (0.64 mmol) was dissolved in 20 ml water by addition of sodium hydroxide to pH 8.0. Then 168 mg sodium bicarbonate was added, followed by 0.2 ml 1-fluoro-4-dinitrobenzene (1.58 mmol dissolved in 2 ml ethanol). The reaction was stirred for 18 hr at room temperature and then 0.1 ml 1-fluoro-2,4-dinitrobenzene in 1 ml ethanol was added. After stirring for an additional 4 hrs, the mixture was adjusted to pH 2.0 with hydrochloric acid and poured into 200 ml cold acetone (-10° C.). The yellow precipitate which formed was collected by filtration, dissolved in 200 ml water and passed into a 2.5×45 cm column of DEAE-cellulose in the bicarbonate form. The chromatogram was developed with a linear salt gradient generated with 2 liters water and 2 liters 0.7M ammonium carbonate. A peak of yellow material with an absorption maximum at 275 nm eluted between 2 and 3 liters of the gradient. Ammonium bicarbonate was removed from this material by evaporation under vacuum and the yield of the desired intermediate was 37 percent. Optical absorption maxima measured in 0.02N hydrochloric acid occurred at 275 and 363 nm and the millimolar extinction coefficients were 21.8 and 15.5, respectively. Further analyses showed 1.07 phosphate residue per ribose residue.

reactant | 8-(2-aminoethyl)aminoadenosine-5'-monophosphate | P(=O)(O)(O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C(=NC=2C(N)=NC=NC12)NCCN)O)O | C12H20N7O7P
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium bicarbonate | 168 mg | C([O-])(O)=O.[Na+]
reactant | 1-fluoro-2,4-dinitrobenzene | 0.1 ml | FC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C6H3FN2O4
reactant | hydrochloric acid | Cl | ClH
solvent | water | 20 ml | O | H2O
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 8-[2-(2,4-dinitrophenyl)aminoethyl]aminoadenosine-5'-monophosphate | P(=O)(O)(O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C(=NC=2C(N)=NC=NC12)NCCNC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-])O)O | C18H22N9O11P
